US05077329
Dibenzyl P-[α-(N-Benzyl-N-hydroxyamino)benzyl]phosphonate
Using the procedure of Example 1, the title compound is prepared from 15.0 g (94 mmol) of N-benzylhydroxylamine hydrochloride, 10.6 g (100 mmol) of benzaldehyde, 26.7 g (100 mmol) of dibenzyl phosphite, 3.78 g (45 mmol) of sodium bicarbonate and 300 ml of THF by heating at 60° C. for four hours. The residue is purified by column chromatography (silica gel, 2.5:1 hexane:ethyl acetate eluent) followed by recrystallization from a mixture of methylene chloride and hexane to give 5.6 g (13% yield) of a white solid melting at 116°-118° C.

reactant | N-benzylhydroxylamine hydrochloride | 94 mmol, 15.0 g | Cl.C(C1=CC=CC=C1)NO
reactant | benzaldehyde | 100 mmol, 10.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | dibenzyl phosphite | 100 mmol, 26.7 g | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | sodium bicarbonate | 45 mmol, 3.78 g | C([O-])(O)=O.[Na+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | Dibenzyl P-[α-(N-Benzyl-N-hydroxyamino)benzyl]phosphonate | C(C1=CC=CC=C1)N(O)C(C1=CC=CC=C1)P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C28H28NO4P
